US05567711
To a solution of DMF (5.0 mL, 64 mmol) and CH2Cl2 (120 mL) was added oxalyl chloride (2.1 mL, 24 mmol). The mixture was stirred for 45 minutes at ambient temperature and then was decanted into a solution of 6-(4-fluorophenyl)indole (5.1 g, 24 mmol), which was prepared as described in International Application Number PCT/US92/05890 (4 Feb. 1993). The reaction mixture was stirred for 90 minutes at ambient temperature and the imminium salt was isolated by filtration. The solids were dissolved in methanol (150 mL) and saturated aqueous NaHCO3 (200 mL) was added. The resulting precipitate was filtered and dried in a vacuum oven to give 6-(4-fluorophenyl)indole-3-carboxaldehyde (4.14 g, 72%) as a tan powder.

reactant | DMF | 64 mmol, 5.0 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 24 mmol, 2.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(4-fluorophenyl)indole | 24 mmol, 5.1 g | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-fluorophenyl)indole-3-carboxaldehyde | 4.14 g, 72% | FC1=CC=C(C=C1)C1=CC=C2C(=CNC2=C1)C=O | C15H10FNO
